US08349824B2
A mixture of N2-ethyl-N2-methyl-[1,2,4]triazolo[1,5-a]pyridine-2,7-diamine (215 mg, 1.12 mmol), 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid (267 mg, 1.35 mmol), propylphosphonic anhydride (50% in ethyl acetate, 1.66 ml, 2.81 mmol) and N,N-diisopropylethylamine (574 μl, 3.37 mmol) in tetrahydrofuran (10 ml) was refluxed for 18 hours. The crude material was applied on silicagel and purified by flash chromatography over a 20 g silicagel column using ethyl acetate 100% as eluent affording 5-[2-(ethyl-methyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (375 mg, 89.8%) as a light yellow solid. mp: 167° C., MS: m/z=372.5 (M+H+)

reactant | N2-ethyl-N2-methyl-[1,2,4]triazolo[1,5-a]pyridine-2,7-diamine | 1.12 mmol, 215 mg | C(C)N(C1=NN2C(C=C(C=C2)N)=N1)C | C9H13N5
reactant | 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid | 1.35 mmol, 267 mg | C(C)OC(=O)C=1C=NN(C1C(=O)O)C | C8H10N2O4
reactant | propylphosphonic anhydride | 2.81 mmol, 1.66 ml | CCCP(=O)=O | C3H7O2P
reactant | N,N-diisopropylethylamine | 3.37 mmol, 574 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-[2-(ethyl-methyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 375 mg, 89.8% | C(C)OC(=O)C=1C=NN(C1C(NC1=CC=2N(C=C1)N=C(N2)N(C)CC)=O)C | C17H21N7O3
